US07858632B2
A solution of 5-(5-amino-2-Isopropyl-4-methoxy-phenoxy)-pyrimidine-2,4-diamine (0.117 g, 0.4 mmol) and ethyl isocyanate (0.034 g, 0.5 mmol) in 4 mL of toluene was heated to 100° C. in a sealed tube. After 5 h the solution was cooled and concentrated in vacuo gave a brown solid. Purification via flash chromatography (CH2Cl2/MeOH 97:3) afforded 1-[5-(2,4-diamino-pyrimidin-5-yloxy)-4-isopropyl-2-methoxy-phenyl]-3-ethyl-urea (0.120 g, 83%) as a white solid; (M+H)=361.

reactant | 5-(5-amino-2-Isopropyl-4-methoxy-phenoxy)-pyrimidine-2,4-diamine | 0.4 mmol, 0.117 g | NC=1C(=CC(=C(OC=2C(=NC(=NC2)N)N)C1)C(C)C)OC | C14H19N5O2
reactant | ethyl isocyanate | 0.5 mmol, 0.034 g | C(C)N=C=O | C3H5NO
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | 1-[5-(2,4-diamino-pyrimidin-5-yloxy)-4-isopropyl-2-methoxy-phenyl]-3-ethyl-urea | 0.120 g, 83% | NC1=NC=C(C(=N1)N)OC=1C(=CC(=C(C1)NC(=O)NCC)OC)C(C)C | C17H24N6O3
